Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Colonoscopy ___ by Drs. ___

 
History of Present Illness:
___ y/o male with HIV, HCV, cirrhosis c/b ascites with recurrent 
varcieal bleeds s/p TIPS c/b encephalopathy, active 
endocarditis, mycotic aneurysm and AS who presents from ___ 
___ with possible GIB. Patient was seen in ___ 
clinic where he was told that his hematocrit was 21% and he was 
instructed to present to the hospital for a transfusion. Upon 
interview by his ID physician he reported that he had noticed 
blood on his toilet paper for several days. He stated that his 
stool had been normal color. He denied any melena or frank 
hematochezia. He denied any associated pain though did report an 
intermittent LLQ pain that is unrelated to when he notices blood 
on the toilet paper. He further denied any dizziness, chest 
pain, or shortness of breath. Of note patient had a recent 
endoscopy approximately one month ago that did not show any 
varices. At ___, the patient's hematocrit was noted to 
be 27%. The patient was started on octreotide and Protonix drips 
and transferred to ___ for further evaluation. Vitals signs 
prior to transfer were 96.9, 48, 127/52, 97%. Hematocrit at 
transfer was noted to be 27 and INR was 1.2.  
.  
In the ED, initial VS were 97.8, 54, 122/96, 14, 100%. Patient 
was noted to have guaiac positive brown stool, no external 
hemorrhoids, and no internal hemorrhoids were visible on 
anoscopy. His serum potassium was noted to be 6.0. An EKG from 
___ revealed sinus rhythm at 56, NA and no STT changes. 
EKG here revealed sinus bradycardia with peaked T-waves. He was 
subsequently given an Amp of D50, 10 units of Regular insulin, 
Calcium gluconate and Kayexalate. Repeat potassium was 5.1. 
Vitals signs at transfer were 97.8, 50s, 138/55, 22, 98% on RA.  

.  
On arrival to the floor, the patient denied any active 
complaints and reported the history as detaile above.  
.  
REVIEW OF SYSTEMS: Positive per HPI. Denies fever, chills, sore 
throat, cough, shortness of breath, chest pain, abdominal pain, 
nausea, vomiting, diarrhea, constipation, melena, hematochezia, 
dysuria, hematuria.  
 
Past Medical History:
* Cirrhosis c/b ascites and variceal bleeding, no encephalopathy 
 
-- cause not yet clearly established  
-- h/o liver biopsy in ___ showing lobular hepatitis, CMV  
positive  
-- EGD ___ OSH which revealed esophageal varices:  
3 columns-2 grade III and 1 grade II esophageal varices with  
stigmata of bleeding and were banded. Pt was also noted gastric  

varices. Banded x2 at OSH.  
-- EGD ___ without evidence of varices but revealing 
___ Esophagus  
* Hepatitis B, but HbSAb positive/HbCAb positive  
* HIV (CD4 most recent CD4 290 in ___, VL <48 ___ on  
HAART, on dapsone ppx  
* HTN  
* Hyperlipidemia  
* Anemia  
* GERD  
* Hemorrhoids  
* Aortic stenosis - aortic valve area 0.7  
 
Social History:
___
Family History:
Unavailable as patient states he never knew his family well. 
 
Physical Exam:
Admission Exam:
VS - 97.8, 50s, 138/55, 22, 98% on RA  
Gen: Elderly male in NAD. Oriented x3. Mood, affect appropriate. 
 
HEENT: NCAT. MMM, OP benign.  
Neck: Supple, full ROM. No JVP distention. No cervical  
lymphadenopathy. No carotid bruits noted.  
CV: RRR with normal S1, S2. Systolic murmur ___ heard throughout 
the precordium spots.  
Chest: Respiration unlabored, no accessory muscle use. CTAB  
without crackles, wheezes or rhonchi.  
Abd: Normal bowel sounds. Soft, NT, ND. No organomegaly or  
masses.  
Ext: No edema. Distal pulses intact radial 2+, DP 2+, ___ 2+.  
Skin: No rashes, ulcers, or other lesions.  
Neuro: CN II-XII grossly intact. Strength ___ in all  
extremities. No asterixis.  

On Discharge: 
VS: T 97.6 HR 67 BP 144/63 RR 16 02Sat 96% on RA
GEN: NAD, Comfortable, AOx3, cachectic
CV: RRR, nl s1 and s2, systolic murmur unchanged
PULM: CTA b/l, no respiratory distress
ABD: Soft, BS +, non-distended, minimally tender, incision c/d/i 
with staple removed and steri-strips in place, JP stitch was 
removed and JP site was c/d/i without erythema.   
EXT: No c/c/e, no tremor or asterixis. 
 
Pertinent Results:
Admission Labs:
___ 12:00AM   WBC-5.5 RBC-2.87* HGB-7.9* HCT-25.1* MCV-88 
MCH-27.5 MCHC-31.4 RDW-18.0*
___ 12:00AM   PLT COUNT-198
___ 12:00AM   GLUCOSE-89 UREA N-31* CREAT-1.4* SODIUM-139 
POTASSIUM-6.0* CHLORIDE-109* TOTAL CO2-21* ANION GAP-15
___ 12:00AM   ALT(SGPT)-13 AST(SGOT)-17 ALK PHOS-106 TOT 
BILI-0.5
___ 12:00AM   LIPASE-46
___ 05:30AM   ALBUMIN-3.5 CALCIUM-9.7 PHOSPHATE-3.9 
MAGNESIUM-2.1 IRON-54
___ 05:30AM   calTIBC-250* FERRITIN-45 TRF-192*

Oncologic Labs:
___ 06:21AM BLOOD CEA-3.1 AFP-1.4

Colonoscopy ___:
Findings:  
 Protruding Lesions A fungating non-bleeding mass of malignant 
appearance was found in the distal sigmoid colon. The mass 
caused a partial obstruction. The scope did NOT traversed the 
lesion. With a injector needle the area was tattooed.  Cold 
forceps biopsies were performed for histology at the distal 
sigmoid colon mass.  
 Other Due to the size of the mass, the rest of the colon was 
NOT evaluated.  
Impression: Mass in the distal sigmoid colon (biopsy)
Due to the size of the mass, the rest of the colon was NOT 
evaluated.
Otherwise normal colonoscopy to sigmoid colon 
Recommendations: 1. Follow up pathology results
2. Resume diet as tolerated
3. Will discuss with primary hepatolgist
4. Consult colorectal surgery
5. Consider CT abdomen and pelvis with contrast
6. Check a CEA level 

Sigmoid Mass Pathology:
SPECIMEN SUBMITTED: G I BIOPSY (1 JAR).

Procedure date     Tissue received     Report Date    Diagnosed 
by 
___ ___. ___ 
Previous biopsies:    ___  GI BX (1 JAR) 

DIAGNOSIS: 
Colon, 20 cm, biopsy:
Colonic adenocarcinoma, low grade.

CT CHEST ABDOMEN PELVIS ___:
LUNGS: Mild apical scarring and centrilobular emphysema is seen. 
There is no pneumothorax or pleural effusion. The heart size is 
normal and there is no pericardial effusion. There are no 
suspicious nodules or masses seen within the lungs. The 
descending aorta is ectatic with a significant amount of soft 
plaque. The major airways are patent to their subsegmental 
levels. 
  
ABDOMEN: The liver enhances homogeneously without evidence for 
masses. There is no biliary ductal dilatation. A TIPS stent is 
present and patent. Note is made of cholelithiasis, but no 
cholecystitis. The spleen size is top normal but homogeneous. 
The pancreas is normal. The kidneys enhance homogeneously 
without evidence for hydronephrosis. A left renal cyst (3:66) 
and right renal cyst (3:61) are noted. There is a 1-cm left 
adrenal mass which is unchanged from prior study and 
statistically represents an adenoma. The right adrenal gland is 
normal. The stomach and small bowel are normal. The ascending 
colon appears collapsed and limits complete evaluation. 
  
PELVIS: The bladder, prostate, and seminal vesicles are normal. 
Within the 
sigmoid colon is an approximately 5-cm area of thickening 
concerning for 
malignancy and corresponding to lesion seen on colonoscopy. 
There is no 
pelvic or inguinal lymphadenopathy present. No free fluid is 
seen. Again 
noted is a small right side fat-containing inguinal hernia. 
  
BONES: There are no suspicious lytic or blastic lesions 
concerning for 
metastatic disease. There are stable degenerative changes about 
the lower 
lumbar spine with disc space narrowing at L2-L3. 
  
IMPRESSION: 
1. Approximately 5-cm sigmoid mass concerning for malignancy. 
There is no 
evidence for metastatic disease and no lymphadenopathy. 
2. Highly ectatic aorta with extensive atherosclerotic 
calcification and 
plaque formation. 
3. Status post TIPS which is widely patent. 
4. Cholelithiasis without cholecystitis. 
5. Unchanged 1-cm left adrenal nodule, statistically 
representing an adenoma. 
6. Collapsed ascending colon which cannot be completely 
evaluated on this 
study. If clinically indicated, a CT colonoscopy can be 
performed for better 
evaluation. 

TTE ___:
The left atrium is mildly dilated. No atrial septal defect is 
seen by 2D or color Doppler. The estimated right atrial pressure 
is ___ mmHg. There is mild symmetric left ventricular 
hypertrophy with normal cavity size and regional/global systolic 
function (LVEF>55%). Doppler parameters are indeterminate for 
left ventricular diastolic function. Right ventricular chamber 
size and free wall motion are normal. The ascending aorta is 
mildly dilated. The descending thoracic aorta is mildly dilated. 
The abdominal aorta is mildly dilated. There are three aortic 
valve leaflets. The aortic valve leaflets are moderately 
thickened. There is critical aortic valve stenosis (valve area 
<0.8cm2). Trace aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Physiologic mitral regurgitation 
is seen (within normal limits). The estimated pulmonary artery 
systolic pressure is normal. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy and 
cavity size with preserved global and regional biventricular 
systolic function. Mildly dilated ascending aorta, descending 
thoracic aorta, and abdominal aorta. Critical aortic stenosis by 
transvalvular velocity and gradients, but visually the aortic 
valve appears to be more pliable, and likely consistent with 
moderate to severe aortic stenosis. Normal pulmonary artery 
systolic pressure. 

Compared with the prior study (images reviewed) of ___, 
the severity of aortic stenosis has increased by transvalvular 
velocity and gradients from moderate to critical; however, 
visually the valve appears to be similarly pliable.  

___ KUB: 
There is residual contrast in the colon with increase in fecal 
material in the ascending and descending colon. There is no 
evidence of bowel obstruction. Moderate degenerative changes are 
in the lumbar spine. A TIPS stent is present.

___ Pathology: 
DIAGNOSIS: 
I.  Sigmoid colon, segmental colectomy (A-S, U-AD):
  1.  Invasive adenocarcinoma; see synoptic report.
  2.  Sixteen lymph nodes with no carcinoma identified ___ 
additional levels are examined on blocks N and U).
II.  Anastomotic donuts (T):
Colonic fragments with no carcinoma seen.

___ TEE Intraoperatively: No spontaneous echo contrast is 
seen in the left atrial appendage. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size and free wall motion are normal. 
The descending thoracic aorta is mildly dilated. There are 
complex (>4mm) atheroma in the descending thoracic aorta. The 
aortic valve leaflets are severely thickened/deformed. There is 
critical aortic valve stenosis (valve area <0.8cm2). Mild (1+) 
aortic regurgitation is seen. Mild (1+) mitral regurgitation is 
seen. There is no pericardial effusion.
At the end of the operation there were no changes. 

___ CXR: ___ catheter is in the main pulmonary 
artery. There is no pneumothorax or pleural effusion. There is 
mild cardiomegaly. Aside from atelectasis in the left lower 
lobe, the lungs are grossly clear. Emphysema and scarring in the 
right upper lobe are better seen in prior CT from ___. 
There is pneumoperitoneum. There is a TIPS stent.

___ KUB: IMPRESSION: 1) Findings are consistent with a 
postoperative small bowel ileus. If concern for mechanical small 
bowel obstruction persists, a CT would provide better 
characterization.
2) Intraperitoneal free air compatible with recent surgery.

___ CXR: FINDINGS: As compared to the previous radiograph, 
the patient has received a nasogastric tube. The tube shows 
normal course and the tip projects over the middle parts of the 
stomach. Normal size of the cardiac silhouette. No pleural 
effusions. No pneumothorax. The previously placed ___ 
catheter has been removed. The free intraperitoneal air, 
previously visible in the right upper quadrant, has completely 
resolved.

___ CT Abdomen: IMPRESSION:
1. Mildly dilated fluid-filled loops of ascending and descending 
colon
suggestive of focal ileus. Patent distal colon without clear 
transition point to suggest large bowel obstruction.
2. Minimally prominent loops of small bowel measuring up to 2.5 
cm, however, no signs of clear obstruction. Findings may also be 
secondary to
postoperative ileus.
3. Expected moderate pneumoperitoneum due to recent sigmoid 
colectomy.
4. Normal appearance of the surgical anastomosis. No evidence of
extraluminal leak or stenosis.
5. No organized fluid collection in the abdomen or pelvis to 
suggest abscess.
6. Standard position of TIPS shunt which appears grossly patent.
7. Stable bulky appearance of the bilateral adrenal glands, left 
greater than right.

___ KUB: IMPRESSION: Non-obstructive bowel gas pattern. Air 
seen throughout the non-dilated colon, extending to the rectum, 
could reflect mild colonic ileus.

___ 07:24PM BLOOD WBC-5.0 RBC-3.42* Hgb-10.1* Hct-30.1* 
MCV-88 MCH-29.7 MCHC-33.7 RDW-16.5* Plt ___
___ 12:46AM BLOOD WBC-7.6 RBC-3.33* Hgb-9.5* Hct-29.4* 
MCV-88 MCH-28.7 MCHC-32.5 RDW-16.8* Plt ___
___ 05:05AM BLOOD WBC-5.9 RBC-3.64* Hgb-10.5* Hct-31.8* 
MCV-87 MCH-28.9 MCHC-33.1 RDW-16.8* Plt ___
___ 05:38AM BLOOD Neuts-48.4* ___ Monos-5.3 
Eos-6.9* Baso-0.8
___ 12:00AM BLOOD Neuts-54.6 ___ Monos-4.7 Eos-5.2* 
Baso-0.6
___ 07:24PM BLOOD Plt ___
___ 02:40PM BLOOD ___ PTT-30.6 ___
___ 09:33AM BLOOD ___ PTT-32.1 ___
___ 05:30AM BLOOD ___ PTT-32.5 ___
___ 05:14AM BLOOD Glucose-100 UreaN-9 Creat-1.0 Na-135 
K-3.7 Cl-104 HCO3-25 AnGap-10
___ 05:38AM BLOOD Glucose-94 UreaN-11 Creat-1.0 Na-139 
K-3.5 Cl-107 HCO3-24 AnGap-12
___ 04:58AM BLOOD Glucose-101* UreaN-12 Creat-0.9 Na-139 
K-3.6 Cl-106 HCO3-23 AnGap-14
___ 02:40PM BLOOD Glucose-102* UreaN-24* Creat-1.0 Na-140 
K-4.4 Cl-112* HCO3-21* AnGap-11
___ 04:31AM BLOOD ALT-12 AST-24 AlkPhos-104
___ 05:30AM BLOOD ALT-12 AST-14 LD(LDH)-124 AlkPhos-99 
TotBili-0.5
___ 12:00AM BLOOD ALT-13 AST-17 AlkPhos-106 TotBili-0.5
___ 12:00AM BLOOD Lipase-46
___ 05:14AM BLOOD Calcium-7.9* Phos-3.0 Mg-2.1
___ 04:31AM BLOOD Calcium-8.0* Phos-2.4* Mg-1.8
___ 04:48AM BLOOD Calcium-7.9* Phos-2.6* Mg-1.8
___ 12:27PM BLOOD Glucose-103 Lactate-1.6 Na-139 K-4.0 
Cl-113*
___ 10:09AM BLOOD Glucose-87 Lactate-2.1* Na-139 K-3.8 
Cl-113*
___ 12:27PM BLOOD freeCa-1.09*
___ 10:09AM BLOOD freeCa-1.13
 
Brief Hospital Course:
Primary Reason for Hospitalization:
___ y/o male with HIV, HCV, cirrhosis c/b ascites with recurrent 
varcieal bleeds s/p TIPS c/b encephalopathy, active 
endocarditis, mycotic aneurysm and severe AS who presented from 
___ with BRBPR and anemia, and found to be hyperkalemic 
with EKG changes. 

Active issues:

# Colon adenocarcinoma: Pt presented due to BRBPR and anemia on 
outpatient labs.  It was decided to proceed with inpatient 
colonoscopy since he continued to have BRBPR and there was 
concern about monitoring his fluid status during prep for 
colonoscopy given his comorbidities (particularly severe AS).  
Unfortunately colonoscopy on ___ showed a sigmoid mass, and 
pathology confirmed adenocarcinoma.  He was evaluated by the 
colorectal surgery service, who recommended resection.  Due to 
his severe aortic stenosis, he was also evaluated by the 
cardiology service, who felt that he could proceed with surgery 
with intraoperative TEE monitoring and did not require valve 
replacement prior to surgery.  

# Acute on chronic anemia: Pt presented with Hct 22, baseline 
Hct ~28.  Likely ___ colon cancer.  He received 1 unit pRBCs and 
his Hct appropriately increased.  On discharge his Hct was 30.1. 
 

#. Aortic Stenosis: ___ on TTE obtained ___ cm2. He was 
evaluated by cardiology service pre-operatively, who felt he 
could proceed with surgery with intraoperative cardiac 
monitoring.  He is being evaluated for possible AVR as outpt. 

#. Acute on CKD: Creat elevated to 1.4 on admission, thought 
likely pre-renal.  His creatinine returned to his baseline of 
1.1 without intervention.  
  
#. Hyperkalemia: Potassium was elevated on admission to 6.0 with 
EKG changes concerning for peaked T waves.  He received 
insulin/glucose/calcium and kayexolate and his potassium 
returned to normal.  Thought likely ___ high potassium content 
diet (pt frequently eats bananas, baked potatoes at home) and/or 
acute on chronic renal failure.  Felt unlikely to be related to 
losartan therapy since he had been on it for ___ years.  He was 
counseled about avoiding high potassium foods.
  
#. S. anginosus Bacteremia: During previous hospitalization, pt 
had blood cx ___ and ___ that grew Strep anginosus in 
setting of GI bleed.  He was initially treated with clindamycin 
but then switched to IV ceftriaxone after speciation became 
available.  He was continued on his home IV ceftriaxone on 
admission, and he remained afebrile with nl WBC.  He completed 
his course of ceftriaxone on ___ (was treated for 4 weeks to 
empirically treat endocarditis although no vegetation was seen 
on TTE during previous admission).  Blood cultures were repeated 
on ___ and were negative.    

Chronic issues:

#. Idiopathic Cirrhosis s/p TIPS: On admission pt's LFTs, T 
bili, and INR were normal.  He has h/o esophageal varices on no 
varices were visualized on EGD of ___ during previous 
hospitalization. He was continued on his home rifaximin, 
nadolol, sucralfate.

#. HIV: Stable. Last CD4 94 on ___, viral load 
undectectable.  He was continued on his home darunavir, 
ritonavir, lamivudine, and dapsone.

#. Gastric ulcers:  Diagnosed on EGD during previous 
hospitalization in ___.  He was continued on his home PPI and 
sucralfate.

Transitional issues:
- He maintained DNR/DNI code status (reversed for procedures and 
surgery).

The patient was transitioned to the care of the Colon and Rectal 
Surgery service on ___.  
The patient presented to pre-op on ___. Pt was 
evaluated by anaesthesia and taken to the operating room for 
open sigmoid colectomy w/primary anastomosis. Please see the 
operative note for details. Pt was monitored intraoperatively 
with a TEE and no changes in hemodynamics were noted. Pt was 
extubated, taken to the TSICU overnight for close cardiopumonary 
monitoring with arterial line and swanz ganz catheter.  Patient 
recovered well without incident and was transferred to floor on 
POD 1 after removal of Swanz and Arterial line.  
Post-operatively: 
Neuro: The patient was alert and oriented throughout his 
recovery; pain was initially managed with a diluadid PCA and IV 
tylenol; he was transitioned to intermittent dilaudid on POD 2.  
He was transitioned to oral pain medications on POD 5 but was 
put back on IV tylenol after having to place and NGT for 
vomiting.  He was again put on PO pain meds on POD 8 after diet 
was advanced and pain was well controlled.  
CV: The patient was closely monitored from a cardiovascular 
standpoint with a goal SBP above 120mmHg.  Patient recieved 
fluid boluses PRN as well as albumin to keep pressures in an 
acceptable range and his beta blocker was held postoperatively 
until his pressures and HR improved.  By POD 3 he had become 
cardiovacularly stable - vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 
GI/GU/FEN: He was initially kept NPO and he was advanced to sips 
on POD 1 and clears on POD 2.  Patient continued to have 
problems with nausea and distension and his diet was backed down 
to NPO and then re-advanced after having several small BM's 
though no flatus.  On POD 5 he vomited 300cc, put back to sips, 
KUB showed air fluid levels,and 
an NGT was placed putting out 500cc of bilious fluid.  On POD 6 
a CT scan that day failed to show leak or ascites and confirmed 
an ileus.  On POD 7 HIV meds were crushed and placed down NGT 
without issue and clamping trials were started after he began to 
pass flatus and had low residuals.  On POD 8 NGT was d/c and he 
has advanced to sips without issue and a KUB was obtained after 
he stopped passing flatus and it showed colonic air - pt was 
given a suppository and began passing large amounts of flatus 
and had a BM which continued into POD 9 at which time he was 
advanced to a regular diet which was well tolerated.  A JP drain 
was discontinued on POD 4 and a stitch was placed which was 
removed before discharge.  C. diff was sent on POD 6 for liquid 
stools but were all negative.  Foley was dicontinued at midnight 
on POD 3 without incident.  PICC line was dinscontinued before 
discharge.  Patient's intake and output were closely monitored 
and electroyltes repleted as needed. 
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. Blood, urine, and stool 
cultures were all negative.  
HEME: The patient's blood counts were closely watched for signs 
of bleeding post-operatively, of which there were none.  No 
post-operative transfusions were required and hematocrit was 30 
at discharge and stable without signs of GI bleed.  
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay; he was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
with stable vital signs.  The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
1. Darunavir 800 mg PO daily  
2. Ritonavir 100 mg PO daily  
3. Dapsone 50 mg PO daily  
4. Rifaximin 550 mg PO BID  
5. Lamivudine 150 mg PO daily  
6. Pravastatin 10 mg PO daily  
7. Polyethylene glycol 3350 17 gram PO daily  
8. Lorazepam 0.5 mg PO QHS PRN insomnia  
9. Pantoprazole 40 mg PO Q12H  
10. Sucralfate 1 gram PO QID  
11. Losartan 50 mg PO daily  
14. Nadolol 10 mg PO once a day  
15. Acetaminophen 500 mg PO Q6H PRN pain  
16. Ceftriaxone 2 gm IV daily  
 
Discharge Medications:
1. dapsone 25 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily).  
2. darunavir 400 mg Tablet Sig: Two (2) Tablet PO DAILY (Daily). 
 
3. lamivudine 150 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. ritonavir 100 mg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
5. rifaximin 550 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
6. sucralfate 1 gram Tablet Sig: One (1) Tablet PO QID (4 times 
a day).  
7. pravastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
8. losartan 50 mg Tablet Sig: One (1) Tablet PO once a day.  
9. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
10. nadolol 20 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
11. polyethylene glycol 3350 17 gram/dose Powder Sig: One (1) 
packet PO DAILY (Daily).  
12. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
13. oxycodone 5 mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.
Disp:*40 Tablet(s)* Refills:*0*
14. acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H 
(every 6 hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Colonic adenocarcinoma
Acute blood loss anemia
Aortic stenosis
HIV
Idiopathic cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ because you were anemic.  You had a 
colonoscopy, which unfortunately showed a cancer in your colon.  
You were evaluated by the colorectal surgery service, who 
recommended surgical removal of the mass.  You received 1 unit 
of blood prior to surgery and your blood counts improved.

You were admitted to the hospital after an open Sigmoid 
Colectomy with Primary Anastamosis for surgical management of 
the mass obstructing your colon which was revealed to be colonic 
adenocarcinoma. You have recovered from this procedure well and 
you are now ready to return home. Samples from your colon were 
taken and this tissue was sent to the pathology department for 
analysis. As mentioned during you visit the results were that it 
was cancerous and you will need to continue to follow up with 
the Oncologists at ___. 

You have tolerated a regular diet, passing gas and your pain is 
controlled with pain medications by mouth. You may return home 
to finish your recovery.

We made no changes to your medications while you were in the 
hospital but we did add medications for pain and a stool 
softener.  Please continue taking your medications as prescribed 
by your outpatient providers.

Please monitor your bowel function closely. Some loose stool and 
passing of small amounts of dark, old appearing blood are 
explected however, if you notice that you are passing bright red 
blood with bowel movments or having loose stool without 
improvement please call the office or go to the emergency room 
if the symptoms are severe. If you are taking narcotic pain 
medications there is a risk that you will have some 
constipation. Please take an over the counter stool softener 
such as Colace, and if the symptoms does not improve call the 
office. If you have any of the following symptoms please call 
the office for advice or go to the emergency room if severe: 
increasing abdominal distension, increasing abdominal pain, 
nausea, vomiting, inability to tolerate food or liquids, 
prolonges loose stool, or constipation. 

You have a long vertical incision on your abdomen that was 
closed with staples.  These have been removed and covered with 
Steri-strips which should remain in place for ___ days.  This 
incision can be left open to air or covered with a dry sterile 
gauze dressing if the incision become irritated from clothing.  
Please monitor the incision for signs and symptoms of infection 
including: increasing redness at the incision, opening of the 
incision, increased pain at the incision line, draining of 
white/green/yellow/foul smelling drainage, or if you develop a 
fever. Please call the office if you develop these symptoms or 
go to the emergency room if the symptoms are severe.  You may 
shower, let the warm water run over the incision line and pat 
the area dry with a towel, do not rub. 

No heavy lifting for at least 6 weeks after surgery unless 
instructed otherwise by Dr. ___ Dr. ___. You may 
gradually increase your activity as tolerated. 

 

You will be prescribed a small amount of the pain medication.  
Please take this medication exactly as prescribed. You may take 
Tylenol as recommended for pain. Please do not take more than 
4000mg of Tylenol daily. Do not drink alcohol while taking 
narcotic pain medication or Tylenol. Please do not drive a car 
while taking narcotic pain medication. 

It has been a pleasure taking care of you at ___ and we wish 
you a speedy recovery.
 
Followup Instructions:
___